US05445762
1-(1-Adamantylcarbonyl)-1-aza-4,7,10,13-tetraoxacyclopentadecane
Analogously to Example 14 from 1-aza-4,7,10,13-tetraoxacyclopentadecane and 1-adamantylcarbonyl chloride.

reactant | 1-aza-4,7,10,13-tetraoxacyclopentadecane | N1CCOCCOCCOCCOCC1 | C10H21NO4
reactant | 1-adamantylcarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
product | 1-(1-Adamantylcarbonyl)-1-aza-4,7,10,13-tetraoxacyclopentadecane | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CCOCCOCCOCCOCC2 | C21H35NO5
